US08008307B2
Step b: {(3aR,4R,6R,6aS)-6-[(6-chloropyrimidin-4-yl)(methyl)amino]-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methanol
To a stirred solution of N-[(3aS,4R,6R,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}-methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]-6-chloro-N-methylpyrimidin-4-amine (400 mg, 0.93 mmol) in THF (10.0 mL) was added 1M solution of tetra-n-butylammonium fluoride in THF (1.00 mL, 1.00 mmol), and the mixture was stirred for 2 h. After quenching by addition of brine (20.0 mL), the resulting mixture was extracted with ethyl acetate (3×40.0 mL). The organic layers were combined, dried over MgSO4, filtered, and evaporated under vacuum. The residue was purified via silica gel column chromatography eluting with a gradient of 40 to 100% ethyl acetate in DCM to afford the title compound (261 mg, 89%) as a colorless oil. LC/MS: Rt=1.24 min, ES+ 314.2 (AA standard).

reactant | N-[(3aS,4R,6R,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}-methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]-6-chloro-N-methylpyrimidin-4-amine | 0.93 mmol, 400 mg | [Si](C)(C)(C(C)(C)C)OC[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N(C2=NC=NC(=C2)Cl)C | C20H34ClN3O3Si
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1.00 mmol, 1.00 mL | C1CCOC1 | C4H8O
product | {(3aR,4R,6R,6aS)-6-[(6-chloropyrimidin-4-yl)(methyl)amino]-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methanol | 261 mg, 89% | ClC1=CC(=NC=N1)N([C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO)C | C14H20ClN3O3
